US06541484B2
5-(2-Ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-3-phenyl-3H-pyrazolo[3,4-c]isoquinoline
Prepared as for Example 1, step c), using 3-chloromethyl-2 -ethyl-2H-[1,2,4]triazole hydrochloride (0.10 g, 0.55 mmol) and 3,4-dihydro-3-phenyl-5H-pyrazolo[3,4-c]isoquinolin-5-one (0.095 g, 0.36 mmol) to give the title compound (0.102 g, 76%) as an off-white powder, m.p. 147-148° C. Found: C, 66.49; H, 4.83; N, 22.16. C21H18N6O.0.5(H2O) requires C, 66.48; H, 5.05; N, 22.15%. δH (400 MHz; CDCl3) 1.47 (3H, t, J=7), 4.30 (2H, q, J=7), 5.82 (2H, s), 7.36 (1H, dd, J=8 and 7), 7.51-7.58 (3H, m), 7.83 (1H, dd, J=8 and 7), 7.96 (1H, s), 8.16 (1H, d, J=8), 8.22 (2H, d, J=8), 8.30 (1H, d, J=8), 8.42 (1H, s); m/z (ES+) 371 (M+H+).

reactant | 3-chloromethyl-2 -ethyl-2H-[1,2,4]triazole hydrochloride | 0.55 mmol, 0.10 g | Cl.ClCC=1N(N=CN1)CC
reactant | 3,4-dihydro-3-phenyl-5H-pyrazolo[3,4-c]isoquinolin-5-one | 0.36 mmol, 0.095 g | C1(=CC=CC=C1)N1N=CC2=C1NC(C=1C=CC=CC21)=O | C16H11N3O
product | 5-(2-Ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-3-phenyl-3H-pyrazolo[3,4-c]isoquinoline | 0.102 g, 76% | C(C)N1N=CN=C1COC1=NC2=C(C=3C=CC=CC13)C=NN2C2=CC=CC=C2 | C21H18N6O
